US05968923
2,2-Dicyclopropylethanol
To a solution of the compound of Preparation 155 (1 g, 9.24 mmol) in tetrahydrofuran (15 ml) under nitrogen was added 9-borabicyclo[3.3.1]nonane (18.5 ml of a 0.5M solution in tetrahydrofuran, 1 mol. equiv.) and the solution stirred for 18 hours. Sodium hydroxide (3.08 ml of a 3M aqueous solution, 1 mol. equiv.) was added followed by ethanol (5 ml). The reaction was cooled to 5° C. and hydrogen peroxide (3.14 ml of a 30% w/w aqueous solution, 3 mol. equiv.) added. The reaction was stirred at room temperature for 1 hour.

reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2,2-Dicyclopropylethanol | C1(CC1)C(CO)C1CC1 | C8H14O
